US07863291B2
To 5,6-dichloropyridin-2-amine (0.47 g, 2.88 mmol) in dichloromethane (25 mL) was added 1,1′-thiocarbonyldipyridin-2(1 H)-one (0.68 g, 2.94 mmol). The reaction was stirred at 40° C. for 3 hours, then cooled to room temperature. The crude material was purified by chromatography (Biotage: 25-100% ethyl acetate/hexane) 2,3-dichloro-6-isothiocyanatopyridine (0.48 g, 2.34 mmol, 81% yield) as a white powder. 1H NMR (500 MHz, DMSO-D6) δ ppm 8.26 (d, J=8.55 Hz, 1 H), 7.47 (d, J=8.24 Hz, 1 H). MS (LC/MS) R.T.=2.83; [M+H]+=204.8.

reactant | 5,6-dichloropyridin-2-amine | 2.88 mmol, 0.47 g | ClC=1C=CC(=NC1Cl)N | C5H4Cl2N2
reactant | 1,1′-thiocarbonyldipyridin-2(1 H)-one | 2.94 mmol, 0.68 g | C(=S)(N1C(C=CC=C1)=O)N1C(C=CC=C1)=O | C11H8N2O2S
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 2,3-dichloro-6-isothiocyanatopyridine | 2.34 mmol, 0.48 g, 81% yield | ClC1=NC(=CC=C1Cl)N=C=S | C6H2Cl2N2S
